US05342546
A solution of 30.1 g of 3,5-difluorobromobenzene in 90 ml of anhydrous diethyl ether was added dropwise under stirring at 15°-20° C. to 4.5 g of magnesium metal powder, followed by reaction at room temperature for one hour so that 3,5-difluoromagnesium bromobenzene (a Grignard reagent) was formed. After 20 g of 4-pentylcyclohexenone were added under stirring at -10° to 0° C. to the thus-formed Grignard reagent, they were reacted at room temperature for additional 1 hour. After the completion of the reaction, diluted hydrochloric acid was gradually added dropwise to the reaction mixture, followed by extraction with diethyl ether. After the extract was washed with saturated NaCl, anhydrous sodium sulfate was added to dry the extract. The resultant mixture was filtered and the solvent was distilled off from the filtrate under reduced pressure, whereby 1-(1-hydroxy-4-pentylcyclohexenyl)-3,5-difluorobenzene was obtained as a crude reaction product.

reactant | 3,5-difluorobromobenzene | 30.1 g | FC=1C=C(C=C(C1)F)Br | C6H3BrF2
reactant | magnesium | 4.5 g | [Mg] | Mg
reactant | 4-pentylcyclohexenone | 20 g | C(CCCC)C1C=CC(CC1)=O | C11H18O
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 90 ml | C(C)OCC | C4H10O
product | 1-(1-hydroxy-4-pentylcyclohexenyl)-3,5-difluorobenzene | OC1(C=CC(CC1)CCCCC)C1=CC(=CC(=C1)F)F | C17H22F2O
